US08039664B2
792 kg of 1,3-butanediol, 2650 kg of methyl methacrylate (MMA), 0.125 kg of hydroquinone monomethyl ether as inhibitor and a mixture of 5 kg of calcium oxide, 1 kg of lithium hydroxide and 3 kg of water as catalyst are combined in a 6 m3 stirred tank reactor provided with agitator, steam heating, distillation column and condenser and the mixture is stirred while passing in air. To stabilize the column, a total of 151 kg of MMA containing 0.24 kg of hydroquinone monomethyl ether and 0.016 kg of 4-hydroxy-2,2,6,6-tetramethylpiperidin-1-oxyl in dissolved form are introduced into the column runback during the course of the reaction. The apparatus is heated to a temperature at the bottom of 100° C., with the column initially being operated under total reflux. As soon as the temperature at the top of the column drops to below 70° C., the methanol/MMA mixture is taken off at a reflux ratio of 4:1. The MMA stock in the reactor is supplemented by introduction of equal parts of fresh MMA per part of methanol/MMA mixture taken off. Thus, a total of 1226 kg of MMA are introduced over a period of 5 hours. Over a period of 8 hours, the reflux ratio is adapted to the decreasing formation of methanol up to a value of 1.5:1. At a temperature at the bottom of 130° C., the reaction is complete and excess MMA is taken off under reduced pressure, with the pressure being gradually reduced to 100 mbar. When no more MMA distills off, the vacuum is broken. The contents of the tank, comprising the catalyst-containing 1,3-butanediol dimethacrylate, is admixed with 9 kg of bleaching earth and 6 kg of aluminium silicate (Perlite) as filter aid and freed of catalyst by washcoat filtration. The filtrate is fed into a continuous evaporator (area: 3.5 m2) having a rotating wiper system at a pressure of 18 torr and a vaporizer temperature of 134° C. A total of 1810 kg of 1,3-butanediol dimethacrylate are obtained from the bottom product:

reactant | 1,3-butanediol | 792 kg | C(CC(C)O)O | C4H10O2
reactant | methyl methacrylate | 2650 kg | C(C(=C)C)(=O)OC | C5H8O2
catalyst | calcium oxide | 5 kg | [O-2].[Ca+2]
catalyst | lithium hydroxide | 1 kg | [OH-].[Li+]
catalyst | water | 3 kg | O | H2O
catalyst | hydroquinone monomethyl ether | 0.125 kg | COC1=CC=C(O)C=C1 | C7H8O2
product | 1,3-butanediol dimethacrylate | 1810 kg | C(C(=C)C)(=O)OCCC(C)OC(C(=C)C)=O | C12H18O4
